US09216980B2
Step 2: 6-(4-Chloro-pyridin-3-yl)-3-(1-methyl-1H-pyrazol-4-yl)-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
6-Iodo-3-(1-methyl-1H-pyrazol-4-yl)-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole (0.21 g, 0.41 mmol), 4-chloro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine (0.15 g, 0.615 mmol), 1,1′-[bis(diphenylphosphino)ferrocene]dichloro palladium(II) (17 mg, 0.021 mmol) in saturated aqueous sodium carbonate solution (1 mL) and acetonitrile (4 mL) were placed under an atmosphere of argon and heated with microwave irradiation at 100° C. for 45 minutes. The cooled reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was separated, dried over sodium sulfate, filtered and evaporated to afford a residue which was purified by flash chromatography (silica, 12 g column, ISCO, 0-10% methanol in DCM) to afford the title compound as a yellow oil (0.13 g, 66%). 1H NMR (CDCl3, 400 MHz): 9.22 (d, J=1.1 Hz, 1H), 8.91 (d, J=0.5 Hz, 1H), 8.79 (d, J=2.1 Hz, 1H), 8.53 (d, J=5.4 Hz, 1H), 8.48 (d, J=2.1 Hz, 1H), 8.32 (d, J=1.1 Hz, 1H), 7.86 (d, J=0.8 Hz, 1H), 7.73 (s, 1H), 7.48 (dd, J=5.4, 0.5 Hz, 1H), 6.01 (s, 2H), 4.01 (s, 3H), 3.70-3.63 (m, 2H), 1.02-0.94 (m, 2H), −0.06 (s, 9H). LCMS (Method G): RT=4.8 min, M+H+=491.

reactant | 6-Iodo-3-(1-methyl-1H-pyrazol-4-yl)-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 0.41 mmol, 0.21 g | IC1=CC=2C3=C(N(C2C=N1)COCC[Si](C)(C)C)N=CC(=C3)C=3C=NN(C3)C | C20H24IN5OSi
reactant | 4-chloro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine | 0.615 mmol, 0.15 g | ClC1=C(C=NC=C1)B1OC(C(O1)(C)C)(C)C | C11H15BClNO2
solvent | sodium carbonate | 1 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 6-(4-Chloro-pyridin-3-yl)-3-(1-methyl-1H-pyrazol-4-yl)-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 0.13 g, 66% | ClC1=C(C=NC=C1)C1=CC=2C3=C(N(C2C=N1)COCC[Si](C)(C)C)N=CC(=C3)C=3C=NN(C3)C | C25H27ClN6OSi
